US04242519
Methanol (4 ml) and 1 ml of water were added to 1.277 g of methyl α-methylthio-α-[m-(2-phenyl-1,3-dioxa-2-cyclopentyl)phenyl]propionate. Furthermore, 350 mg of sodium hydroxide was added, and the mixture was heated under reflux for 2 hours. After cooling, 30 ml of water was added, and the mixture was washed twice with 10 ml of diethyl ether. To the aqueous layer was added about 6 ml of 3.5% hydrochloric acid to adjust its pH to 3. It was then extracted four times with 20 ml of diethyl ether. The organic layer was washed twice with 10 ml of water, dried over anhydrous sodium sulfate, and evaporated under reduced pressure to afford 1.199 g of α-methylthio-α-[m-(2-phenyl-1,3-dioxa-2-cyclopentyl)phenyl]propionic acid as colorless crystals.

reactant | Methanol | 4 ml | CO | CH4O
reactant | methyl α-methylthio-α-[m-(2-phenyl-1,3-dioxa-2-cyclopentyl)phenyl]propionate | 1.277 g | CSC(C(=O)OC)(C)C1=CC(=CC=C1)C1(OCCO1)C1=CC=CC=C1 | C20H22O4S
reactant | sodium hydroxide | 350 mg | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | α-methylthio-α-[m-(2-phenyl-1,3-dioxa-2-cyclopentyl)phenyl]propionic acid | 1.199 g | CSC(C(=O)O)(C)C1=CC(=CC=C1)C1(OCCO1)C1=CC=CC=C1 | C19H20O4S
